US07256198B2
Step 1: 5′-Methylspiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one
A mixture of 5-methylisatin (8.00 g, 49.6 mmol), 1,3 propanediol (10.89 mL, 149 mmol, 3 eq) and p-toluenesulfonic acid monohydrate (1.89 g, 9.92 mmol, 0.2 eq) in benzene (940 mL) was heated to reflux under a Dean Stark Trap for 17.5 hr. The reaction mixture was concentrated. The residue was taken up in EtOAc (300 mL) and washed with sat. aq. NaHCO3 (2×) and concentrated. The crude product was purified on Biotage KP silica gel eluting with 60/40 Pet ether/EtOAc to give the title compound as a yellow solid (8.0 g., 74% yield). NMR (300 Mz, DMSO-d6): consistent.

reactant | 5-methylisatin | 49.6 mmol, 8.00 g | CC=1C=C2C(C(NC2=CC1)=O)=O | C9H7NO2
reactant | 1,3 propanediol | 149 mmol, 10.89 mL, 3 eq | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid monohydrate | 9.92 mmol, 1.89 g, 0.2 eq | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | benzene | 940 mL | C1=CC=CC=C1 | C6H6
product | 5′-Methylspiro[1,3-dioxane-2,3′-indol]-2′(1′H)-one | 8.0 g, 74% yield | CC=1C=C2C3(C(NC2=CC1)=O)OCCCO3 | C12H13NO3
